US09023840B2
Step 2: 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}benzoic acid
To a solution of methyl 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)-ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}benzoate (0.9 g, 2 mmol) in tetrahydrofuran (8 mL) was added a solution of lithium hydroxide (0.16 g, 6.7 mmol) in water (7.4 mL). The reaction mixture was then stirred at 35° C. The progress of reaction was monitored by LC/MS. After 46 hours, LC/MS data indicated that the main component of the reaction was the desired product LCMS m/z=530.2. The reaction mixture was diluted with water (5 mL), pH was adjusted to ˜4 with 1N HCl, and was extracted with ethyl acetate. Organic fraction was then washed water (1×), brine (1×), dried over sodium sulfate and then concentrated in-vacuo. The crude product was purified by flash chromatography on a silica gel column with methanol in methylene chloride to give the desired product (0.450 g, 50%). LCMS (M+H)+: m/z=530.2.

reactant | methyl 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)-ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}benzoate | 2 mmol, 0.9 g | C(#N)CC1(CN(C1)C1=CC=C(C(=O)OC)C=C1)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C28H33N7O3Si
reactant | lithium hydroxide | 6.7 mmol, 0.16 g | [OH-].[Li+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | water | 7.4 mL | O | H2O
product | 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}benzoic acid | C(#N)CC1(CN(C1)C1=CC=C(C(=O)O)C=C1)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C27H31N7O3Si
